US09302989B2
N-(3-(4-aminophenyl)oxetan-3-yl)-2-methylpropane-2-sulfinamide
Claisen's alkali (potassium hydroxide, 12.7 g in 9 ml water and 33 ml methanol) was added to N-(4-(3-(1,1-dimethylethylsulfinamido)oxetan-3-yl)phenyl)acetamide (300 mg, 0.966 mmol) and the reaction was stirred at 90° C. for 2 hours. The mixture was cooled to room temperature when water and ethyl acetate were added. The aqueous layer was extracted twice with ethyl acetate and the combined organics were dried with magnesium sulfate, filtered and concentrated under vacuum. The residue was purified by regular phase flash column chromatography to give the title compound.

reactant | N-(4-(3-(1,1-dimethylethylsulfinamido)oxetan-3-yl)phenyl)acetamide | 0.966 mmol, 300 mg | CC(C)(S(=O)NC1(COC1)C1=CC=C(C=C1)NC(C)=O)C | C15H22N2O3S
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-(4-aminophenyl)oxetan-3-yl)-2-methylpropane-2-sulfinamide | NC1=CC=C(C=C1)C1(COC1)NS(=O)C(C)(C)C | C13H20N2O2S
